US07589109B2
Step 1. tert-Butyl 4-cyano-4-hydroxypiperidine-1-carboxylate
To a suspension of tert-butyl 4-oxopiperidine-1-carboxylate (2.0 g, 10 mmol) in diethyl ether (40 mL), a solution of NaCN (0.54 g, 11 mmol) and NaHCO3 (1.7 g, 20 mmol) in water (25 mL) was added slowly with vigorous stirring at room temperature. The mixture was stirred overnight, and extracted with Et2O (30 mL×2). The organic phase was washed with water (50 mL), brine (50 mL) and dried over MgSO4, filtered and evaporated gave 2.1 g of the title compound as clear colorless oil.

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 10 mmol, 2.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | NaCN | 11 mmol, 0.54 g | [C-]#N.[Na+]
reactant | NaHCO3 | 20 mmol, 1.7 g | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | water | 25 mL | O | H2O
product | tert-Butyl 4-cyano-4-hydroxypiperidine-1-carboxylate | 2.1 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C11H18N2O3
